US07683056B2
(7R,9aR or 9aS)-2-acetyl-7-{[(1,1-dimethylethyl)(dimethyl)silyl]methyl}octahydro-2H-pyrazino[1,2-a]pyrazine (D87-Diastereoisomer 1)
To a solution of the (3R,9aS or 9aR)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]methyl}octahydro-2H-pyrazino[1,2-a]pyrazine (D86, 217 mg) in 9 mL of dichloromethane was added triethylamine (212 μL ) and it was brought to −10 ° C. A solution of acetyl chloride (54 μL) in 2 mL of dichloromethane was added dropwise. After 15 min the reaction was quenched by addition of MeOH. The crude was purified by flash chromatography (silica, CH2Cl2 to CH2Cl2: (0.5 M NH3 in MeOH) 95:5). The sample thus obtained was dissolved in CH2Cl2 and extracted with sat. NaHCO3. The organics were dried and the solvent removed, leading to the title compound (128 mg).

reactant | 3-{[(1,1-dimethylethyl)(dimethyl)silyl]methyl}octahydro-2H-pyrazino[1,2-a]pyrazine | 217 mg | CC(C)(C)[Si](C)(C)CC1NCC2N(C1)CCNC2 | C14H31N3Si
reactant | triethylamine | 212 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 54 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-acetyl-7-{[(1,1-dimethylethyl)(dimethyl)silyl]methyl}octahydro-2H-pyrazino[1,2-a]pyrazine | C(C)(=O)N1CC2N(CC1)CC(NC2)C[Si](C)(C)C(C)(C)C | C16H33N3OSi
